US05856295
N-Ethyl-N-(3-methylphenyl)propionamide was prepared on a laboratory scale by acylation of N-ethyl-m-toluidine with propionyl chloride. The reaction was carried out in a 5 litre 3 necked round bottomed flask equipped with a mechanical stirrer, a thermometer (0°-250° C.), an addition vessel and a condenser.

reactant | N-ethyl-m-toluidine | C(C)NC1=CC(=CC=C1)C | C9H13N
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-Ethyl-N-(3-methylphenyl)propionamide | C(C)N(C(CC)=O)C1=CC(=CC=C1)C | C12H17NO
